US05670526
To a cooled solution of fuming HNO3 (50 ml) and conc. H2SO4 (50 ml) in an ice bath was added 2,3,5-trimethylpyridine-N-oxide (35.67 g) and the reaction mixture was stirred at 40°-50° C. for 18 h. After which time, the reaction was cooled to rt, poured into water/crushed ice (250 ml), alkalized with NaOH pellets and extracted with CH2 Cl2 (3×100 ml). The extracts were combined and washed with sat. NaCl (1×50 ml), dried (MgSO4) and the solvent removed in vacuo to give 4-nitro-2,3,5-trimethyl-pyridine-N-oxide (45.5 g, 96%) as an orange solid; mp 69°-71° C. (ether), orange plates.

reactant | HNO3 | 50 ml | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
reactant | 2,3,5-trimethylpyridine-N-oxide | 35.67 g | CC1=[N+](C=C(C=C1C)C)[O-] | C8H11NO
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 4-nitro-2,3,5-trimethyl-pyridine-N-oxide | 45.5 g, 96% | [N+](=O)([O-])C1=C(C(=[N+](C=C1C)[O-])C)C | C8H10N2O3
